US04234585
In a manner analogous to that described in Example 1, 3-n-butyl-4-methyl-7-hydroxy-2-oxo-1,2-dihydroquinoline is reacted with 3-[4-(4-chlorobenzyl)-piperazin-1-yl]-propyl chloride in ethoxyethanol. There is obtained 3-n-butyl-4-methyl-7-{3-[4-(4-chlorobenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline in a yield of 57.5% of theory; m.p. 148°-149° C.

reactant | 3-n-butyl-4-methyl-7-hydroxy-2-oxo-1,2-dihydroquinoline | C(CCC)C=1C(NC2=CC(=CC=C2C1C)O)=O | C14H17NO2
reactant | 3-[4-(4-chlorobenzyl)-piperazin-1-yl]-propyl chloride | ClC1=CC=C(CN2CCN(CC2)CCCCl)C=C1 | C14H20Cl2N2
solvent | ethoxyethanol | C(C)OC(C)O | C4H10O2
product | 3-n-butyl-4-methyl-7-{3-[4-(4-chlorobenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline | yield of 57.5% | C(CCC)C=1C(NC2=CC(=CC=C2C1C)OCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl)=O | C28H36ClN3O2
